** Name: SimpleOpAmp46

.MACRO SimpleOpAmp46 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 inputVoltageBiasXXnXX1 inputVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=1e-6 W=24e-6
mDiodeTransistorNmos2 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=1e-6 W=137e-6
mDiodeTransistorPmos3 ibias ibias sourcePmos sourcePmos pmos4 L=2e-6 W=8e-6
mDiodeTransistorPmos4 FirstStageYinnerSourceLoad2 FirstStageYinnerSourceLoad2 sourcePmos sourcePmos pmos4 L=1e-6 W=423e-6
mDiodeTransistorPmos5 FirstStageYout1 FirstStageYout1 FirstStageYinnerSourceLoad2 FirstStageYinnerSourceLoad2 pmos4 L=1e-6 W=52e-6
mNormalTransistorNmos6 out inputVoltageBiasXXnXX1 FirstStageYsourceGCC2 FirstStageYsourceGCC2 nmos4 L=1e-6 W=41e-6
mNormalTransistorNmos7 FirstStageYout1 inputVoltageBiasXXnXX1 FirstStageYsourceGCC1 FirstStageYsourceGCC1 nmos4 L=1e-6 W=41e-6
mNormalTransistorNmos8 FirstStageYsourceGCC1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=1e-6 W=452e-6
mNormalTransistorNmos9 FirstStageYsourceGCC2 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=1e-6 W=452e-6
mNormalTransistorPmos10 inputVoltageBiasXXnXX1 ibias sourcePmos sourcePmos pmos4 L=2e-6 W=212e-6
mNormalTransistorPmos11 out FirstStageYout1 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack2Load2 pmos4 L=1e-6 W=52e-6
mNormalTransistorPmos12 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerSourceLoad2 sourcePmos sourcePmos pmos4 L=1e-6 W=423e-6
mNormalTransistorPmos13 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=1e-6 W=592e-6
mNormalTransistorPmos14 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=1e-6 W=592e-6
mNormalTransistorPmos15 FirstStageYsourceTransconductance ibias sourcePmos sourcePmos pmos4 L=2e-6 W=586e-6
Capacitor1 out sourceNmos 10e-12
.EOM SimpleOpAmp46

** Expected Performance Values: 
** Gain: 80 dB
** Power consumption: 10.3511 mW
** Area: 4893 (mu_m)^2
** Transit frequency: 63 MHz
** Transit frequency with error factor: 63.0002 MHz
** Slew rate: 63.0829 V/mu_s
** Phase margin: 85.9437°
** CMRR: 122 dB
** VoutMax: 3.43001 V
** VoutMin: 0.950001 V
** VcmMax: 3.87001 V
** VcmMin: -0.409999 V


** Expected Currents: 
** NormalTransistorPmos: -265.285 muA
** NormalTransistorNmos: 520.617 muA
** NormalTransistorNmos: 892.487 muA
** NormalTransistorNmos: 520.613 muA
** NormalTransistorNmos: 892.481 muA
** DiodeTransistorPmos: -520.614 muA
** DiodeTransistorPmos: -520.613 muA
** NormalTransistorPmos: -520.612 muA
** NormalTransistorPmos: -520.613 muA
** NormalTransistorPmos: -743.736 muA
** NormalTransistorPmos: -371.868 muA
** NormalTransistorPmos: -371.868 muA
** DiodeTransistorNmos: 265.286 muA
** DiodeTransistorNmos: 265.287 muA
** DiodeTransistorPmos: -9.99899 muA


** Expected Voltages: 
** ibias: 4.06101  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXnXX1: 1.32201  V
** out: 2.5  V
** outSourceVoltageBiasXXnXX1: 0.557001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerSourceLoad2: 4.17301  V
** innerTransistorStack2Load2: 4.16801  V
** out1: 2.85901  V
** sourceGCC1: 0.528001  V
** sourceGCC2: 0.528001  V
** sourceTransconductance: 3.25101  V


.END