** Name: SimpleOpAmp47

.MACRO SimpleOpAmp47 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=2e-6 W=6e-6
mDiodeTransistorNmos2 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=2e-6 W=6e-6
mDiodeTransistorPmos3 inputVoltageBiasXXpXX1 inputVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=11e-6
mDiodeTransistorPmos4 inputVoltageBiasXXpXX2 inputVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=2e-6 W=5e-6
mNormalTransistorNmos5 inputVoltageBiasXXpXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=2e-6 W=67e-6
mNormalTransistorNmos6 inputVoltageBiasXXpXX2 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=2e-6 W=12e-6
mNormalTransistorNmos7 out ibias FirstStageYsourceGCC2 FirstStageYsourceGCC2 nmos4 L=2e-6 W=275e-6
mNormalTransistorNmos8 FirstStageYinnerSourceLoad2 ibias FirstStageYsourceGCC1 FirstStageYsourceGCC1 nmos4 L=2e-6 W=275e-6
mNormalTransistorNmos9 FirstStageYsourceGCC1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=2e-6 W=548e-6
mNormalTransistorNmos10 FirstStageYsourceGCC2 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=2e-6 W=548e-6
mNormalTransistorPmos11 out inputVoltageBiasXXpXX1 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack2Load2 pmos4 L=1e-6 W=398e-6
mNormalTransistorPmos12 FirstStageYinnerSourceLoad2 inputVoltageBiasXXpXX1 FirstStageYinnerTransistorStack1Load2 FirstStageYinnerTransistorStack1Load2 pmos4 L=1e-6 W=398e-6
mNormalTransistorPmos13 FirstStageYinnerTransistorStack1Load2 FirstStageYinnerSourceLoad2 sourcePmos sourcePmos pmos4 L=1e-6 W=392e-6
mNormalTransistorPmos14 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerSourceLoad2 sourcePmos sourcePmos pmos4 L=1e-6 W=392e-6
mNormalTransistorPmos15 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=1e-6 W=597e-6
mNormalTransistorPmos16 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=1e-6 W=597e-6
mNormalTransistorPmos17 FirstStageYsourceTransconductance inputVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=2e-6 W=188e-6
Capacitor1 out sourceNmos 10e-12
.EOM SimpleOpAmp47

** Expected Performance Values: 
** Gain: 86 dB
** Power consumption: 9.89401 mW
** Area: 6645 (mu_m)^2
** Transit frequency: 63.3691 MHz
** Transit frequency with error factor: 63.3695 MHz
** Slew rate: 64.1003 V/mu_s
** Phase margin: 77.3494°
** CMRR: 137 dB
** VoutMax: 4.45001 V
** VoutMin: 0.820001 V
** VcmMax: 3.57001 V
** VcmMin: -0.369999 V


** Expected Currents: 
** NormalTransistorNmos: 111.687 muA
** NormalTransistorNmos: 20.1121 muA
** NormalTransistorNmos: 535.783 muA
** NormalTransistorNmos: 918.486 muA
** NormalTransistorNmos: 535.779 muA
** NormalTransistorNmos: 918.48 muA
** NormalTransistorPmos: -535.78 muA
** NormalTransistorPmos: -535.779 muA
** NormalTransistorPmos: -535.778 muA
** NormalTransistorPmos: -535.779 muA
** NormalTransistorPmos: -765.404 muA
** NormalTransistorPmos: -382.701 muA
** NormalTransistorPmos: -382.701 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorNmos: 9.99801 muA
** DiodeTransistorPmos: -111.686 muA
** DiodeTransistorPmos: -20.1129 muA


** Expected Voltages: 
** ibias: 1.20601  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXpXX1: 3.68601  V
** inputVoltageBiasXXpXX2: 3.76201  V
** out: 2.5  V
** outSourceVoltageBiasXXnXX1: 0.603001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerSourceLoad2: 4.16001  V
** innerTransistorStack1Load2: 4.52401  V
** innerTransistorStack2Load2: 4.52401  V
** sourceGCC1: 0.586001  V
** sourceGCC2: 0.586001  V
** sourceTransconductance: 3.25301  V


.END