** Name: SimpleOpAmp51

.MACRO SimpleOpAmp51 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias sourceNmos sourceNmos nmos4 L=2e-6 W=5e-6
mDiodeTransistorNmos2 FirstStageYinnerSourceLoad2 FirstStageYinnerSourceLoad2 sourceNmos sourceNmos nmos4 L=2e-6 W=190e-6
mDiodeTransistorPmos3 inputVoltageBiasXXpXX1 inputVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 pmos4 L=1e-6 W=66e-6
mDiodeTransistorPmos4 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=10e-6
mNormalTransistorNmos5 inputVoltageBiasXXpXX1 ibias sourceNmos sourceNmos nmos4 L=2e-6 W=33e-6
mNormalTransistorNmos6 out FirstStageYout1 FirstStageYinnerSourceLoad2 FirstStageYinnerSourceLoad2 nmos4 L=1e-6 W=110e-6
mNormalTransistorNmos7 FirstStageYout1 FirstStageYinnerSourceLoad2 sourceNmos sourceNmos nmos4 L=2e-6 W=190e-6
mNormalTransistorNmos8 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=2e-6 W=320e-6
mNormalTransistorNmos9 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=2e-6 W=320e-6
mNormalTransistorNmos10 FirstStageYsourceTransconductance ibias sourceNmos sourceNmos nmos4 L=2e-6 W=338e-6
mNormalTransistorPmos11 out inputVoltageBiasXXpXX1 FirstStageYsourceGCC2 FirstStageYsourceGCC2 pmos4 L=1e-6 W=598e-6
mNormalTransistorPmos12 FirstStageYout1 inputVoltageBiasXXpXX1 FirstStageYsourceGCC1 FirstStageYsourceGCC1 pmos4 L=1e-6 W=598e-6
mNormalTransistorPmos13 FirstStageYsourceGCC1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=125e-6
mNormalTransistorPmos14 FirstStageYsourceGCC2 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=125e-6
Capacitor1 out sourceNmos 10e-12
.EOM SimpleOpAmp51

** Expected Performance Values: 
** Gain: 87 dB
** Power consumption: 8.38101 mW
** Area: 4424 (mu_m)^2
** Transit frequency: 66.5221 MHz
** Transit frequency with error factor: 66.5225 MHz
** Slew rate: 55.7544 V/mu_s
** Phase margin: 73.9116°
** CMRR: 141 dB
** VoutMax: 3.63001 V
** VoutMin: 0.870001 V
** VcmMax: 4.80001 V
** VcmMin: 0.780001 V


** Expected Currents: 
** NormalTransistorNmos: 65.1981 muA
** NormalTransistorPmos: -466.999 muA
** NormalTransistorPmos: -800.489 muA
** NormalTransistorPmos: -466.999 muA
** NormalTransistorPmos: -800.489 muA
** NormalTransistorNmos: 467 muA
** NormalTransistorNmos: 467 muA
** DiodeTransistorNmos: 467 muA
** NormalTransistorNmos: 666.98 muA
** NormalTransistorNmos: 333.49 muA
** NormalTransistorNmos: 333.49 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorPmos: -65.1989 muA
** DiodeTransistorPmos: -65.1979 muA


** Expected Voltages: 
** ibias: 0.622001  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXpXX1: 3.03601  V
** out: 2.5  V
** outSourceVoltageBiasXXpXX1: 3.83501  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerSourceLoad2: 0.645001  V
** out1: 1.27301  V
** sourceGCC1: 3.80801  V
** sourceGCC2: 3.80801  V
** sourceTransconductance: 1.93801  V


.END