** Name: SimpleOpAmp53

.MACRO SimpleOpAmp53 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias sourceNmos sourceNmos nmos4 L=4e-6 W=5e-6
mDiodeTransistorNmos2 FirstStageYinnerSourceLoad2 FirstStageYinnerSourceLoad2 sourceNmos sourceNmos nmos4 L=1e-6 W=123e-6
mDiodeTransistorNmos3 FirstStageYout1 FirstStageYout1 FirstStageYinnerSourceLoad2 FirstStageYinnerSourceLoad2 nmos4 L=1e-6 W=107e-6
mDiodeTransistorPmos4 inputVoltageBiasXXpXX1 inputVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 pmos4 L=1e-6 W=20e-6
mDiodeTransistorPmos5 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=31e-6
mNormalTransistorNmos6 inputVoltageBiasXXpXX1 ibias sourceNmos sourceNmos nmos4 L=4e-6 W=39e-6
mNormalTransistorNmos7 out FirstStageYout1 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack2Load2 nmos4 L=1e-6 W=107e-6
mNormalTransistorNmos8 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerSourceLoad2 sourceNmos sourceNmos nmos4 L=1e-6 W=123e-6
mNormalTransistorNmos9 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=1e-6 W=180e-6
mNormalTransistorNmos10 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=1e-6 W=180e-6
mNormalTransistorNmos11 FirstStageYsourceTransconductance ibias sourceNmos sourceNmos nmos4 L=4e-6 W=361e-6
mNormalTransistorPmos12 out inputVoltageBiasXXpXX1 FirstStageYsourceGCC2 FirstStageYsourceGCC2 pmos4 L=1e-6 W=600e-6
mNormalTransistorPmos13 FirstStageYout1 inputVoltageBiasXXpXX1 FirstStageYsourceGCC1 FirstStageYsourceGCC1 pmos4 L=1e-6 W=600e-6
mNormalTransistorPmos14 FirstStageYsourceGCC1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=349e-6
mNormalTransistorPmos15 FirstStageYsourceGCC2 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=349e-6
Capacitor1 out sourceNmos 10e-12
.EOM SimpleOpAmp53

** Expected Performance Values: 
** Gain: 86 dB
** Power consumption: 8.93601 mW
** Area: 4389 (mu_m)^2
** Transit frequency: 72.7131 MHz
** Transit frequency with error factor: 72.7129 MHz
** Slew rate: 59.2128 V/mu_s
** Phase margin: 72.7657°
** CMRR: 140 dB
** VoutMax: 3.85001 V
** VoutMin: 0.860001 V
** VcmMax: 5.03001 V
** VcmMin: 0.860001 V


** Expected Currents: 
** NormalTransistorNmos: 77.0191 muA
** NormalTransistorPmos: -495.983 muA
** NormalTransistorPmos: -850.116 muA
** NormalTransistorPmos: -495.983 muA
** NormalTransistorPmos: -850.116 muA
** DiodeTransistorNmos: 495.984 muA
** DiodeTransistorNmos: 495.983 muA
** NormalTransistorNmos: 495.984 muA
** NormalTransistorNmos: 495.983 muA
** NormalTransistorNmos: 708.266 muA
** NormalTransistorNmos: 354.133 muA
** NormalTransistorNmos: 354.133 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorPmos: -77.0199 muA
** DiodeTransistorPmos: -77.0189 muA


** Expected Voltages: 
** ibias: 0.711001  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXpXX1: 3.03601  V
** out: 2.5  V
** outSourceVoltageBiasXXpXX1: 4.06501  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerSourceLoad2: 0.623001  V
** innerTransistorStack2Load2: 0.621001  V
** out1: 1.26101  V
** sourceGCC1: 3.81401  V
** sourceGCC2: 3.81401  V
** sourceTransconductance: 1.94201  V


.END